US09388189B2
(S)-2-(1-((5-(2,4-Di hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(2,4-Dimethoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (95 mg, 0.14 mmol) was treated with boron tribromide (1M in dichloromethane, 1.46 mL, 14.6 mmol) and a solution of ammonia (7N in methanol, 1.96 mL, 13.72 mmol) according to the method described in Example 41 to give 15 mg (21% yield) of the title compound. Purity 100%.

reactant | (S)-2-(1-((5-(2,4-Dimethoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.14 mmol, 95 mg | COC1=C(C=CC(=C1)OC)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H41N7O4Si
reactant | boron tribromide | 14.6 mmol, 1M, 1.46 mL | B(Br)(Br)Br | BBr3
reactant | ammonia | 13.72 mmol, 7N, 1.96 mL | N | H3N
product | (S)-2-(1-((5-(2,4-Di hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 15 mg, 21% yield | OC1=C(C=CC(=C1)O)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C27H23N7O3
